US05348978
a) (S)-2-Hydroxy-3-phenoxypropanoic acid
Platinum oxide (1.0 g) in acetic acid (20 ml) was hydrogenated at 1 atmosphere for 1.5 h. The platinum was filtered off, washed with water and added to a solution of (R)-3-phenoxy-1,2-propanediol (1.0 g, 6 mmol) and sodium bicarbonate (0.5 g) in water (120 ml). Air was blown through the vigorously stirred mixture overnight. The mixture was filtered, the aqueous solution acidified with hydrochloric acid and extracted with ethyl acetate. The organic extracts were dried (Na2SO4) and the solvent evaporated to give the sub-title acid (0.9 g).

reactant | (R)-3-phenoxy-1,2-propanediol | 6 mmol, 1.0 g | O(C1=CC=CC=C1)C[C@@H](CO)O | C9H12O3
reactant | sodium bicarbonate | 0.5 g | C([O-])(O)=O.[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | water | 120 ml | O | H2O
catalyst | Platinum oxide | 1.0 g | [Pt]=O
product | (S)-2-Hydroxy-3-phenoxypropanoic acid | 0.9 g | O[C@H](C(=O)O)COC1=CC=CC=C1 | C9H10O4
